US06288278B1
10 g (56 mmole) of N,N,N′, N′-tetramethyl-C-phenylmethanediamine (J. Am. Chem. Soc. 77 (1955) 1114-1116) were dissolved in 100 ml ether and the solution was cooled to 0° C. in an ice-bath. 4.0 ml (56 mmole) acetyl chloride were added dropwise under nitrogen. After the first drops, a white salt precipitated out and the temperature increased slightly. After 15 hours at RT, the mixture was decanted and the solid was washed three times with 100 ml ether each time, filtered over an inert gas frit under nitrogen and dried to constant weight under an oil-pump vacuum. 7.7 g benzylidenedimethylammonium chloride (80.9% of theoretical) were obtained in this manner.

reactant | N,N,N′, N′-tetramethyl-C-phenylmethanediamine | 56 mmole, 10 g | CN(C(N(C)C)C1=CC=CC=C1)C | C11H18N2
reactant | acetyl chloride | 56 mmole, 4.0 ml | C(C)(=O)Cl | C2H3ClO
solvent | ether | 100 ml | CCOCC | C4H10O
product | benzylidenedimethylammonium chloride | 7.7 g, 80.9% | [Cl-].C(C1=CC=CC=C1)=[N+](C)C | InChI=1S/C9H12N.ClH/c1-10(2)8-9-6-4-3-5-7-9;/h3-8H,1-2H3;1H/q+1;/p-1
